US05464781
In a similar manner to Example B1, a mixture of 6-bromo-7-methyl-1,8-naphthyridin-4-ol (3.7 g) and phosphorus oxychloride (25 ml) was stirred at 95° C. for 1 hour to give 3-bromo-5-chloro-2-methyl-1,8-naphthyridine, m.p. 160°-164° C.

reactant | 6-bromo-7-methyl-1,8-naphthyridin-4-ol | 3.7 g | BrC=1C=C2C(=CC=NC2=NC1C)O | C9H7BrN2O
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-bromo-5-chloro-2-methyl-1,8-naphthyridine | BrC=1C(=NC2=NC=CC(=C2C1)Cl)C | C9H6BrClN2
